US04873236
11-(Chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
To a suspension of 158.3 g (0.75 mol) of 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one in 3 liters of dioxane, 730 ml (1.46 mol) of a 20% solution of phosgene in toluene was added dropwise within 45 minutes and the resulting mixture was then stirred for 2 hours at ambient temperature. 1.5 l of water were added, the mixture was stirred for a further 2 hours at ambient temperature and the precipitate formed was suction filtered. The product was washed thoroughly with water and dried in a circulating air dryer. Colourless crystals, m.p. 239°-240° C.

reactant | 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.75 mol, 158.3 g | N1=CC=CC2=C1NC1=C(C(N2)=O)C=CC=C1 | C12H9N3O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | water | 1.5 l | O | H2O
solvent | dioxane | 3 liters | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 11-(Chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
